US08030322B2
Preparation 15: 5-chloro-6-methoxy-2,3-dihydro-1H-inden-1-one (Prep15)
A solution of 3-(3-chloro-4-methoxyphenyl)propanoic acid (10 g, 46.7 mmol, commercially available) in PPA (100 mL) was stirred for 2 h at 70 C. Water was added to the mixture and extracted with EA twice. The organic phase were combined and dried over anhydrous Na2SO4, concentrated, purified by FC to afford 6 g of the title compound (y=66%).

reactant | 3-(3-chloro-4-methoxyphenyl)propanoic acid | ClC=1C=C(C=CC1OC)CCC(=O)O | C10H11ClO3
solvent | Water | O | H2O
product | 5-chloro-6-methoxy-2,3-dihydro-1H-inden-1-one | 6 g, 66% | ClC=1C=C2CCC(C2=CC1OC)=O | C10H9ClO2
